US07078428B2
N-[(6-tert-Butyl-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 9, starting with 20 cm3 of absolute ethanol, 0.37 g of sodium, 1.56 g of guanidinium chloride and 3.53 g of ethyl (6-tert-butyl-2-isobutyl-3oxo-2,3-dihydro-1H-isoindol-1-yl)acetate in 10 cm3 of absolute ethanol. The reaction mixture is stirred at a temperature in the region of 20° C. for 16 hours and is then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in a mixture of 15 cm3 of water and 45 cm3 of diethyl ether and then stirred at a temperature in the region of 0° C. for 2 hours. The precipitate obtained is filtered off, washed with twice 10 cm3 of ice-cold water and then dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 2.5 g of N-[(6-tert-butyl-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine are thus obtained in the form of a brown powder melting at 214-215° C. Mass spectrum: DCI: m/e 345 (M+H)+.

reactant | sodium | 0.37 g | [Na] | Na
reactant | guanidinium chloride | 1.56 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (6-tert-butyl-2-isobutyl-3oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 3.53 g | C(C)(C)(C)C1=CC=C2C(N(C(C2=C1)CC(=O)OCC)CC(C)C)=O | C20H29NO3
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | N-[(6-tert-butyl-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 2.5 g | C(C)(C)(C)C1=CC=C2C(N(C(C2=C1)CC(=O)NC(=N)N)CC(C)C)=O | C19H28N4O2
